US04012392
2-(p-Methoxybenzyl)-1,3,3,4-tetramethyl-4-piperidinol
To a mechanically stirred and nitrogen flushed ethereal solution (200 ml) of methyl lithium (prepared in the usual manner from 43 g of methyl iodide and 4.8 g of lithium) there is added in small quantities 9 g of 2-(p-methoxybenzyl)-1,3,3-trimethyl-4-piperidone hydrochloride. During the addition, which takes some 1.5 hour, the mixture is cooled with water. It is stirred at room temperature for 16 hours and finally refluxed for 1 hour. Then the lithium compounds are hydrolysed by careful addition of water (cooling with ice) and the basic material is extracted from the mixture with the aid of 4 N hydrochloric acid. Basification of the aqueous solution followed by extraction with ether and processing of the ethereal solution as usual, gives crystals which after recrystallization from petroleum ether melt at 55°-65° C. Yield 84%. Evidently a mixture of epimeric piperidinols has been formed.

reactant | methyl lithium | C[Li]
reactant | methyl iodide | 43 g | CI | CH3I
reactant | lithium | 4.8 g | [Li] | Li
reactant | 2-(p-methoxybenzyl)-1,3,3-trimethyl-4-piperidone hydrochloride | 9 g | Cl.COC1=CC=C(CC2N(CCC(C2(C)C)=O)C)C=C1
solvent | water | O | H2O
product | 2-(p-Methoxybenzyl)-1,3,3,4-tetramethyl-4-piperidinol | Yield 84% | COC1=CC=C(CC2N(CCC(C2(C)C)(O)C)C)C=C1 | C17H27NO2
